US05428161
Synthesis of 3 amino-5-phenyl-7-bis (2 cyanoethyl)amino phenazinium chloride (Dye C of Table I)
A 3-liter round-bottomed flask fitted with a mechanical stirrer was loaded with 16.6 g (0.066 mole) of 4-(bis-(2-cyanoethyl)amino) aniline in 800 ml of distilled water. A 10% excess of aniline (13.56 g, 0.1456 mole) and 200 ml of distilled water were added to the mixture. The mixture was cooled to 0° C. in an ice bath, and 10 g concentrated hydrochloric acid in 25 ml of water were added. Then 6.31 g (0.0883 mole) of sodium dichromate in 25 ml of water was added. The temperature rose to 7° C. Stirring was continued as 9 ml of concentrated hydrochloric acid in 25 ml of distilled water was added over a period of two hours. After 16 hours the temperature had risen to 20° C. The mixture was heated under reflux for 4 hours and then filtered hot. The filter cake was washed with 1.5 liters of boiling water. The combined filtrates were concentrated to 1.4 liters and then heated to 75° C. as 200 g of sodium chloride were added.

reactant | 4-(bis-(2-cyanoethyl)amino) aniline | 0.066 mole, 16.6 g | C(#N)CCN(C1=CC=C(N)C=C1)CCC#N | C12H14N4
reactant | aniline | 0.1456 mole, 13.56 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 10 g | Cl | ClH
reactant | sodium dichromate | 0.0883 mole, 6.31 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | 9 ml | Cl | ClH
solvent | water | 800 ml | O | H2O
solvent | water | 25 ml | O | H2O
solvent | water | 25 ml | O | H2O
solvent | water | 25 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | amino-5-phenyl-7-bis (2 cyanoethyl)amino phenazinium chloride | [Cl-].NC1=CC=CC2=[N+](C3=CC(=CC=C3N=C12)N(CCC#N)CCC#N)C1=CC=CC=C1 | InChI=1S/C24H20N6.ClH/c25-13-5-15-29(16-6-14-26)19-11-12-21-23(17-19)30(18-7-2-1-3-8-18)22-10-4-9-20(27)24(22)28-21;/h1-4,7-12,17,27H,5-6,15-16H2;1H
